US04555572
1-Chloro-10-methyl-4-nitro-9(10H)-acridinone
In the same manner, 7.62 g (0.025 mol) of 1-chloro-7-methoxy-4-nitro-9(10H)-acridinone was converted to 5.05 g (63%) of 1-chloro-7-methoxy-10-methyl-4-nitro-9(10H)-acridinone, mp 235-240 degrees after recrystallization from toluene.

reactant | 1-chloro-7-methoxy-4-nitro-9(10H)-acridinone | 0.025 mol, 7.62 g | ClC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-] | C14H9ClN2O4
reactant | 1-chloro-7-methoxy-10-methyl-4-nitro-9(10H)-acridinone | 5.05 g | ClC1=CC=C(C=2N(C3=CC=C(C=C3C(C12)=O)OC)C)[N+](=O)[O-] | C15H11ClN2O4
product | 1-Chloro-10-methyl-4-nitro-9(10H)-acridinone | ClC1=CC=C(C=2N(C3=CC=CC=C3C(C12)=O)C)[N+](=O)[O-] | C14H9ClN2O3
